US06150379
A mixture comprising 2-pyridinecarboxaldehyde (212 mg, 1.98 mmol, 1 eq), 3,4-diaminobenzonitrile (263 mg, 1.98 mmol, 1 eq) and ethanol (20 mL) was stirred at ambient temperature under nitrogen for 5 to 10 minutes and then 1,4-benzoquinone (233 mg, 2.16 mmol, 1.2 eq) was added. The mixture was heated at reflux for 3 hours and then concentrated. The residue was partitioned between ethyl acetate and saturated sodium bicarbonate. The organic layer was separated, dried (MgSO4), filtered and concentrating to dryness to provide 2-pyridin-2-yl-1H-benzimidazole-5-carbonitrile (348 mg, 1.58 mmol) as an off white solid; ESI LC/MS: 261.9=(MH+ +CH3CN); 1H-NMR (300 Mhz, DMSO-d6): 7.65-7.755 (m, 2H), 7.769 (d, 1H), 8.060 (t, 1H), 8.163 (s, 1H), 8.395 (d, 1H), 8.772 (d, 1H).

reactant | 2-pyridinecarboxaldehyde | 1.98 mmol, 212 mg, 1 eq | N1=C(C=CC=C1)C=O | C6H5NO
reactant | 3,4-diaminobenzonitrile | 1.98 mmol, 263 mg, 1 eq | NC=1C=C(C#N)C=CC1N | C7H7N3
reactant | 1,4-benzoquinone | 2.16 mmol, 233 mg, 1.2 eq | C1(C=CC(C=C1)=O)=O | C6H4O2
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2-pyridin-2-yl-1H-benzimidazole-5-carbonitrile | 1.58 mmol, 348 mg | N1=C(C=CC=C1)C1=NC2=C(N1)C=CC(=C2)C#N | C13H8N4
